US09079866B2
1-((4′-(2-Aminopyrimidin-5-yl)-3′-fluoro-[1,1′-biphenyl]-2-yl)sulfonyl)piperidine-4-carboxamide
The title compound was prepared using conditions analogous to those used to make Example 6 utilizing 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine and 1-((2-bromophenyl)sulfonyl)piperidine-4-carboxamide. MS (ESI): mass calcd. for C22H22FN5O3S, 455.14; m/z found, 455.9 [M+H]+. 1H NMR (500 MHz, DMSO-δ6) δ 8.51 (d, J=1.4, 2H), 8.02 (dd, J=8.0, 1.3, 1H), 7.78-7.71 (m, 1H), 7.69-7.63 (m, 1H), 7.61-7.54 (m, 1H), 7.45 (dd, J=7.6, 1.4, 1H), 7.32 (dd, J=11.8, 1.7, 1H), 7.26 (dd, J=7.9, 1.8, 1H), 7.17 (s, 1H), 6.88 (s, 2H), 6.73 (s, 1H), 3.26-3.19 (m, 2H), 2.47-2.38 (m, 2H), 2.13-2.02 (m, 1H), 1.59 (dd, J=13.9, 3.8, 2H), 1.31-1.17 (m, 2H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
reactant | 1-((2-bromophenyl)sulfonyl)piperidine-4-carboxamide | BrC1=C(C=CC=C1)S(=O)(=O)N1CCC(CC1)C(=O)N | C12H15BrN2O3S
product | 1-((4′-(2-Aminopyrimidin-5-yl)-3′-fluoro-[1,1′-biphenyl]-2-yl)sulfonyl)piperidine-4-carboxamide | NC1=NC=C(C=N1)C1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)N1CCC(CC1)C(=O)N)F | C22H22FN5O3S
